US06002008
N-{4-[(3-Bromo-4-fluorophenyl)amino]-3-cyano-6-quinolinyl}-4-dimethylamino-2-butenamide
Made 2.25 mmol of 5-bromo-but-2-enoyl chloride by mixing 386 μl (2.25 mmol) trimethylsilyl 4-bromo-but-2-enoate, 10 ml methylene chloride, 294 μl (3.38 mmol) oxalyl chloride, and 2 drops of DMF. After bubbling had subsided, removed solvent and dissolved in 10 ml THF. This solution was added to a mixture of 800 mg (2.25 mmol) 6-amino-4-[(3-bromo-4-fluorophenyl)amino]-3-quinolinecarbonitrile, 50 ml THF, and 392 μl (2.25 mmol) N,N-diisopropylethylamine chilled to 0° C. under N2. At 1 hour, added dropwise to a solution of 5.62 ml of 2.0M dimethyl amine in THF (11.2 mmol) at -78° C. Removed dry ice bath after complete addition. After 2 hours, poured into a cold solution of sodium bicarbonate, extracted with ethyl acetate, dried organic layer with sodium sulfate and reduced solvent to a small volume. Loaded onto a column of silica gel and eluted with 50% methanol/ethyl acetate. Stripped solvent of desired fractions and dried in vacuo, giving 386 mg of yellow solid: mass spectrum (electrospray m/e): M+H=467.9, 469.9.

reactant | trimethylsilyl 4-bromo-but-2-enoate | 2.25 mmol, 386 μl | BrCC=CC(=O)O[Si](C)(C)C | C7H13BrO2Si
reactant | oxalyl chloride | 3.38 mmol, 294 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-amino-4-[(3-bromo-4-fluorophenyl)amino]-3-quinolinecarbonitrile | 2.25 mmol, 800 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)F)Br | C16H10BrFN4
reactant | N,N-diisopropylethylamine | 2.25 mmol, 392 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl amine | 2.0M, 5.62 ml | CNC | C2H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 11.2 mmol | C1CCOC1 | C4H8O
product | N-{4-[(3-Bromo-4-fluorophenyl)amino]-3-cyano-6-quinolinyl}-4-dimethylamino-2-butenamide | 386 mg | BrC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)NC(C=CCN(C)C)=O)C#N | C22H19BrFN5O
